US04076820
1-(1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-3-(4-methylphenyl)urea.
By a procedure analogous to that of Example 1, 2-amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine is reacted with p-methylphenyl isocyanate to give the title compound.

reactant | 2-amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine | NC1CCN2CCC3=C(C2C1)C=CC=C3 | C13H18N2
reactant | p-methylphenyl isocyanate | CC1=CC=C(C=C1)N=C=O | C8H7NO
product | 1-(1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-3-(4-methylphenyl)urea | C1C(CCN2CCC3=C(C12)C=CC=C3)NC(=O)NC3=CC=C(C=C3)C | C21H25N3O
